US06831080B2
Step C: (±)-1-(3-Amino-4-fluorophenyl)-ethanol
To a solution of 1-(3-amino-4-fluorophenyl)-ethanone (3 g) in a mixture of MeOH (20 mL) and CH2Cl2 (20 mL) was added in portions NaBH4 (1520 mg) at 0° C. After stirring for 0.5 hours, the reaction mixture was quenched with saturated NH4Cl solution and most of the solvent was removed in vacuo. The residue was extracted with CH2Cl2, and the combined organic layer was washed with water, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel flash chromatography (33% ethyl acetate in hexane) to give 2.9 g of the title compound as an oil.

reactant | 1-(3-amino-4-fluorophenyl)-ethanone | 3 g | NC=1C=C(C=CC1F)C(C)=O | C8H8FNO
reactant | NaBH4 | 1520 mg | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-(3-Amino-4-fluorophenyl)-ethanol | 2.9 g | NC=1C=C(C=CC1F)C(C)O | C8H10FNO
